US07176242B2
3-[(Dipropylamino)carbonyl]-5-iodobenzoic acid (12 g, 32 mmol) is dissolved in 20% methanol/benzene (480 mL), and 2M trimethylsilyldiazomethane in hexane (19 mL, 38 mmol) is added slowly. Upon completion of the addition, the solution is concentrated under reduced pressure to give methyl 3-[(dipropylamino)carbonyl]-5-iodobenzoate for use without further purification in the following reaction. To a −70° C. stirred solution of oxazole (120 mg, 1.7 mmol) in tetrahydrofuran (4 mL) is added n-butyllithium (1.6 M in hexanes, 1.2 mL, 1.9 mmol). After 30 min, zinc chloride (1 M in diethyl ether, 5.2 mL, 5.2 mmol) is added and the reaction mixture is warmed to 0° C. for 1 h. To this mixture is added a solution of methyl 3-[(dipropylamino)carbonyl]-5-iodobenzoate (643 mg, 1.6 mmol) in anhydrous tetrahydrofuran (3 mL) followed by palladium(0) tetrakis(triphenylphosphine) (80 mg, 0.07 mmol). The reaction mixture is heated at reflux for 3 h. The reaction mixture is cooled, diluted with ethyl acetate, filtered, washed with saturated sodium bicarbonate, water, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica gel, 60% ethyl acetate/hexane) provides the title compound in pure form. 1H NMR (400 MHz, CDCl3) δ 8.77 (s, 1H), 8.27 (s, 1H), 8.14 (s, 1H), 7.80 (s, 1H) 7.32 (s, 1H), 3.52 (t, 2H), 3.22 (t, 2H), 1.75 (m, 2H), 1.30 (m, 2H), 0.97 (t, 3H), 0.79 (t, 3H).

reactant | 3-[(Dipropylamino)carbonyl]-5-iodobenzoic acid | 32 mmol, 12 g | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)I)CCC | C14H18INO3
reactant | trimethylsilyldiazomethane | 2M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 38 mmol, 19 mL | CCCCCC | C6H14
solvent | methanol benzene | 480 mL | CO.C1=CC=CC=C1
product | methyl 3-[(dipropylamino)carbonyl]-5-iodobenzoate | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)I)CCC | C15H20INO3
